US08283354B2
To a stirred solution of 2-(4-((R)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol (150 mg, 0.43 mmol) under an N2 atmosphere at 0° C. was added triethylamine (87 mg, 0.86 mmol) followed by the dropwise addition of (R)-tetrahydrofuran-3-yl chloroformate (65 mg, 0.43 mmol). The reaction was allowed to warm to room temperature and was stirred for 2 h. The mixture was partitioned between H2O and CH2Cl2 and separated, and the aqueous layer was extracted twice with CH2Cl2. The organic layers were combined, dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 4:1 CH2Cl2:EtOAc afforded (R)-tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate. LC/MS: m/z 463.5 (M+H)+ at 2.34 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 2-(4-((R)-3-(aminomethyl)piperidin-1-yl)-7-methylquinazolin-2-yl)phenol | 0.43 mmol, 150 mg | NC[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C21H24N4O
reactant | triethylamine | 0.86 mmol, 87 mg | C(C)N(CC)CC | C6H15N
reactant | (R)-tetrahydrofuran-3-yl chloroformate | 0.43 mmol, 65 mg | ClC(=O)O[C@H]1COCC1 | C5H7ClO3
product | (R)-tetrahydrofuran-3-yl((R)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-yl)methylcarbamate | O1C[C@@H](CC1)OC(NC[C@@H]1CN(CCC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C26H30N4O4
